US07598391B2
3-[5-(2-Azepan-1-yl-ethylsulfanyl)-thiazol-2-yl]-1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-urea
Prepared as described in general procedure (H) using 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 2-(hexamethyleneimino)ethyl chloride.

reactant | 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@@H]1CC[C@H](CC1)C | C18H26N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 2-(hexamethyleneimino)ethyl chloride | N(CCCCCCCl)=CCCl | C8H15Cl2N
product | 3-[5-(2-Azepan-1-yl-ethylsulfanyl)-thiazol-2-yl]-1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-urea | N1(CCCCCC1)CCSC1=CN=C(S1)NC(N([C@@H]1CC[C@H](CC1)C)C1CCCCC1)=O | C25H42N4OS2
